US08466199B2
The reaction of methyl 2-hydroxy-4-(2-hydroxy-ethoxy)-benzoate and allyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 2-Allyloxy-4-(2-hydroxy-ethoxy)-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.12 (s, —CO2H); 7.65 (d, J=8.7, 1 arom. H); 6.55 (m, 2 arom. H); 5.97 (m, —CH═CH2); 5.48, 5.21 (2 d-like, CH═CH2); 4.84 (m, CH2CH2OH); 4.58 (d-like, CH2—CH═CH2); 3.99, 3.67 (2t, J=4.8, CH2CH2OH). 13C-NMR (100 MHz, d6-DMSO): 166.45 (C═O); 162.93; 159.39; 133.30; 133.24; 116.86; 112.86; 105.84; 100.43; 69.82; 68.58; 59.40.

reactant | methyl 2-hydroxy-4-(2-hydroxy-ethoxy)-benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCCO | C10H12O5
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-Allyloxy-4-(2-hydroxy-ethoxy)-benzoic acid | C(C=C)OC1=C(C(=O)O)C=CC(=C1)OCCO | C12H14O5
